US04404138
3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride
Prepared by the method described in Example 9 from 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one (5.2 g, 0.020 moles), triethylamine (4.9 g, 0.048 moles), and 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride (5.4 g, 0.024 moles). Recrystallization from methanol yielded the final product (3.3 g) as the dihydrochloride, mp 229°-234° C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.020 moles, 5.2 g | COC1=CC2=C(C=C1OC)C1=C(CNCC1)C(O2)=O | C14H15NO4
reactant | triethylamine | 0.048 moles, 4.9 g | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane hydrochloride | 0.024 moles, 5.4 g | Cl.ClCCN1CC2CCC(C1)CC2
product | 3-[2-(3-Azabicyclo[3.2.2]non-3-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 3.3 g | Cl.Cl.C12CN(CC(CC1)CC2)CCN2CC1=C(CC2)C2=C(OC1=O)C=C(C(=C2)OC)OC | InChI=1S/C24H32N2O4.2ClH/c1-28-22-11-19-18-7-8-25(9-10-26-13-16-3-4-17(14-26)6-5-16)15-20(18)24(27)30-21(19)12-23(22)29-2;;/h11-12,16-17H,3-10,13-15H2,1-2H3;2*1H
